US07476666B2
Step 3: 3-Benzyloxy-2-[4-fluorobenzyl(methyl)aminocarbonyl]-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine
To a solution of 3-benzyloxy-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylic acid (50 mg, 0.166 mmol) in DMF (2 mL) were added EDC (32 mg, 0.166 mmol), HOBT (27 mg, 0.199 mmol), and 4-fluoro-N-methylbenzylamine (23 mg, 0.166 mmol). The reaction was stirred at room temperature overnight and partitioned between EtOAc and brine. The aqueous layer was extracted several times with EtOAc, and the combined organic extracts were dried over Na2SO4 and concentrated in vacuo. Purification by reverse phase chromatography on a C-18 column using a gradient elution of 95-5% H2O (0.1% TFA)/CH3CN (0.1% TFA) and collection and concentration of the appropriate fractions afforded the title product. 1H NMR (400 MHz, CDCl3) δ 7.44-7.42 (m, 1H), 7.38-7.29 (m, 4H), 7.16-7.12 (m, 1H), 6.98-6.92 (m, 3H), 5.30-5.24 (m, 4H), 4.39-4.34 (m, 2H), 3.80-3.73 (m, 2H), 3.19-3.17 (d, 3H), 2.89-2.86 (d, 3H); ES MS (M+1)=423.

reactant | 3-benzyloxy-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylic acid | 0.166 mmol, 50 mg | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CC2)C)=O)C(=O)O | C15H15N3O4
reactant | EDC | 0.166 mmol, 32 mg
reactant | HOBT | 0.199 mmol, 27 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-fluoro-N-methylbenzylamine | 0.166 mmol, 23 mg | FC1=CC=C(CNC)C=C1 | C8H10FN
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-Benzyloxy-2-[4-fluorobenzyl(methyl)aminocarbonyl]-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CC2)C)=O)C(=O)N(C)CC2=CC=C(C=C2)F | C23H23FN4O3
